* EML current-mode cell v1 (topology per ../cell_topology.md)
* Real sky130 NPNs for exp and ln; BEHAVIORAL linear glue (I->V sense,
* floating level shift, opamps, current copies) -- v1 tests the
* translinear core and unit conventions, not the CMOS around it.
*
* Value convention: 1 EML unit = I_UNIT = 1 uA. Input currents iu, iv
* in units; output current in units at node "out" (held at 0 V).
* Ideal target: I_out/I_UNIT = exp(iu) - ln(iv).
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param iunit=0.5u
.param nvt=26.9m      ; n*VT at 27C, n=1.04
.param usig=0.0       ; exp-path input, units
.param vsig=1.0       ; ln-path input, units (must be > 0)

VDD vdd 0 3.3

* ---- exp path: reference transdiode at I_UNIT + level-shifted pair ----
IR1 vdd nb0 {iunit}
* ----------------------------------------------------------------------
* mult=8 ON THE X-CARD(S) BELOW IS INERT -- IT IS NOT A DEVICE MULTIPLIER.
* ngspice SILENTLY ignores `mult=` on a subcircuit call; only `m=` works.
* Measured 2026-08-16, one sky130_fd_pr__npn_05v5_W1p00L1p00 at Vc=1.0 /
* Vb=0.75, .op, collector current vs the un-annotated card:
*     mult=8 -> ratio 1.000000   (ignored, and with NO warning printed)
*     m=8    -> ratio 8.000000   (honoured)
* So every number ever produced in this tree was computed with 1x
* transdiodes, not 8x.
*
* DO NOT "FIX" THIS TO m=8.  The LAYOUT is 1x per transdiode too:
* char/emlcell_b_sim12.inc -- the netlist that LVS-matches the shipped
* layout/emlcell2.gds -- carries these same NPNs with no multiplier at
* all.  Simulation and silicon therefore AGREE today, and there is no bug
* to fix.  Changing mult= to m= here would CREATE an 8x sim/silicon
* mismatch that does not currently exist.  The annotation records an
* INTENT that reached neither the netlist nor the mask; if 8x is wanted,
* change the LAYOUT first and the netlist with it.
* ----------------------------------------------------------------------
XQR nb0 nb0 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=8     ; sets Vref = VBE(I_UNIT)
* input current -> sense voltage u*nVT (behavioral I->V, R_e = nVT/I_UNIT)
IU  0 nu {usig*iunit}
RU  nu 0 {nvt/iunit}
* floating level shift: Vb2 = Vref + u*nVT  (real cell: buffered resistor)
BU  nb2 0 V = {V(nb0) + V(nu)}
XQ2 nc2 nb2 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=8
VC2 vdd nc2 0                                          ; IC2 = I_UNIT*e^u

* ---- ln path: differential transdiode log amps (signal vs reference) ----
IV  0 nva {vsig*iunit}
XQA nva 0 oa 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=8
EOA oa 0 VALUE = {max(min(-2e5*V(nva), 1.6), -1.6)}
IVR 0 nvb {iunit}
XQB nvb 0 ob 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=8
EOB ob 0 VALUE = {max(min(-2e5*V(nvb), 1.6), -1.6)}
* oa - ob = -nVT*ln(v)  ->  I_ln = I_UNIT*ln(v)

* ---- output node: KCL sum of exp copy minus ln term (ideal copies) ----
FEXP out 0 VC2 1.0                                     ; +I_UNIT*e^u
GLN  out 0 VALUE = {iunit*(V(oa)-V(ob))/nvt}           ; -I_UNIT*ln(v)
VOUT out 0 0                                           ; virtual gnd, meas

.control
set filetype=ascii
* sweep u at several fixed v
foreach v 0.2 1.0 5.0
  alterparam vsig = $v
  reset
  dc IU -3u 3.4u 0.05u
  wrdata cell_u_v{$v}.csv i(VOUT)
  destroy all
end
* sweep v at u = 0
alterparam vsig = 1.0
reset
dc IV 0.05u 30u 0.1u
wrdata cell_vsweep.csv i(VOUT)
echo CELL_DONE
.endc
.end
